US04472305
Condensation of ZPheOH (3.00 g.) and HGlu(tBu)OMe hydrochloride salt (2.54 g.) by the mixed anhydride method using isobutyl chloroformate gave ZPhe-Glu(tBu)OMe in 88% yield. Debenzyloxycarbonylation of ZPhe-Glu(tBu)OMe (4.30 g.) by hydrogenation with palladium catalyst gave HPhe-Glu(tBu)OMe, which was not isolated but immediately condensed with BocPro-PheOH (3.12 g.) using dicyclohexylcarbodiimide and hydroxysuccinimide, affording BocPro-Phe-Phe-Glu(tBu)OMe in 22% yield. Hydrazinolysis of BocPro-Phe-Phe-Glu(tBu)OMe (1.09 g.) gave BocPro-Phe-Phe-Glu(tBu)NHNH2 in 58% yield.

reactant | ZPheOH | 3.00 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
reactant | HGlu(tBu)OMe hydrochloride | 2.54 g | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)OC.Cl
reactant | isobutyl chloroformate | ClC(=O)OCC(C)C | C5H9ClO2
product | ZPhe-Glu(tBu)OMe | 88% yield | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C27H34N2O7
